US06313312B1
N-(3-{3-[3-(1H-Indol-3-yl)propyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of N-(3-{3-[3-(IH-indol-3-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide (Preparation 123, 135 mg, 0.34 mmol) in anhydrous tetrahydrofuran (2.5 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.68 ml, 0.68 mmol) and the mixture was stirred at room temperature for 20 h. The rapidly stirred reaction mixture was treated sequentially with water (0.68 ml), sodium hydrogen carbonate (400 mg) and ethyl acetate (15 ml). After 30 min the reaction mixture was filtered and concentrated in vacuo to afford a glassy oil. This was purified by preparative HPLC (condition 8) to give a light brown oil which was partitioned between dichloromethane (15 ml) and aqueous potassium carbonate solution (7% w:v, 5 ml). The layers were separated and the organic layer was washed with water (5 ml), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a colourless oil (69 mg, 50%).

reactant | N-(3-{3-[3-(IH-indol-3-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 0.34 mmol, 135 mg | N1C=C(C2=CC=CC=C12)CCC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C24H27N3O3S
reactant | lithium aluminium hydride | 0.68 mmol, 1.0M, 0.68 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.68 ml | O | H2O
reactant | sodium hydrogen carbonate | 400 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-{3-[3-(1H-Indol-3-yl)propyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 69 mg, 50% | N1C=C(C2=CC=CC=C12)CCCN1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C24H29N3O2S
